US07786132B2
(i) 5-Bromo-2-chloro-4-(thiophen-2-yl)pyrimidine
Thienyl lithium (1.0 M in THF, 26 mL, 26 mmol) was diluted with anhydrous THF (65 mL) and the mixture cooled down to −78° C. under a nitrogen atmosphere. 5-Bromo-2-chloropyrimidine, dissolved in 10 mL of tetrahydofuran, was added to the reaction mixture dropwise. The reaction was allowed to stir for 1 h and then warmed to −20° C. Acetic acid (1.5 mL) and methanol (1.2 mL) were successively added to the reaction mixture. The reaction was stirred for 15 min and a solution of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (5.9 g, 20 mmol) in 10 mL of THF was added. The reaction was stirred for an additional 15 min and then the cooling bath was removed. The mixture was stirred for 1 h and then cooled to 0° C. with an ice bath. 5 N sodium hydroxide (5.2 mL) was added to the reaction mixture and stirred for 5 min. The reaction was then diluted with ethyl acetate (50 mL) and water (50 mL). The organic layer was washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was then dried with sodium sulfate, concentrated and purified by flash chromatography on silica gel using 5% ethyl acetate in hexanes as an eluent to obtain a yellow solid. Yield=3.6 g. MS (M+H)+ 275/277.

reactant | Thienyl lithium | 26 mmol, 1.0 M, 26 mL | S1C(=CC=C1)[Li]
reactant | 5-Bromo-2-chloropyrimidine | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | Acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 20 mmol, 5.9 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | tetrahydofuran | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | 1.2 mL | CO | CH4O
product | 5-Bromo-2-chloro-4-(thiophen-2-yl)pyrimidine | BrC=1C(=NC(=NC1)Cl)C=1SC=CC1 | C8H4BrClN2S
